US04048191
A suspension of 0.50 g of 4-chloro-1-methyl-5-(p-methylsulfinylbenzoyl)-pyrrole-2-acetonitrile from Example XLV is stirred and refluxed in a solution of 0.13 g sodium hydroxide in 2 ml H2O and 2 ml 95% ethanol for 2 hours. The whole is then poured into water and the resulting aqueous solution is washed with chloroform. The washed aqueous solution is then acidified to pH 1 with 3N HCl. The solid which precipitates is collected by filtration and is recrystallized from 10:1 chloroform: water to give 4-chloro-1-methyl-5-(p-methylsulfinylbenzoyl)-pyrrole-2-acetic acid as a yellow solid; m.p. 222°-223° C.

reactant | 4-chloro-1-methyl-5-(p-methylsulfinylbenzoyl)-pyrrole-2-acetonitrile | 0.50 g | ClC=1C=C(N(C1C(C1=CC=C(C=C1)S(=O)C)=O)C)CC#N | C15H13ClN2O2S
reactant | sodium hydroxide | 0.13 g | [OH-].[Na+]
reactant | H2O | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-chloro-1-methyl-5-(p-methylsulfinylbenzoyl)-pyrrole-2-acetic acid | ClC=1C=C(N(C1C(C1=CC=C(C=C1)S(=O)C)=O)C)CC(=O)O | C15H14ClNO4S
